US09388173B2
Step 2: 5-bromo-N-(4-methoxybenzyl)benzene-1,2-diamine
To a solution of 5-bromo-N-(4-methoxybenzyl)-2-nitroaniline (750 mg, crude) in EtOH (8 mL) and H2O (8 mL) was added Fe powder (766 mg, 13.7 mmol) and ammonium chloride (733 mg, 13.7 mmol). The mixture was stirred at 60° C. for 4 h then filtered and the filtrate was concentrated to remove EtOH. The residue was then diluted with water and extracted with EtOAc. The organic layer was concentrated to give the desired product (550 mg, crude, 82% yield) with the crude product being used in next step without further purification. LCMS (m/z): 308.1 [M+H]+

reactant | 5-bromo-N-(4-methoxybenzyl)-2-nitroaniline | 750 mg | BrC=1C=CC(=C(NCC2=CC=C(C=C2)OC)C1)[N+](=O)[O-] | C14H13BrN2O3
reactant | ammonium chloride | 13.7 mmol, 733 mg | [Cl-].[NH4+]
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | H2O | 8 mL | O | H2O
catalyst | Fe | 13.7 mmol, 766 mg | [Fe] | Fe
product | 5-bromo-N-(4-methoxybenzyl)benzene-1,2-diamine | 550 mg, 82% yield | BrC1=CC=C(C(=C1)NCC1=CC=C(C=C1)OC)N | C14H15BrN2O
